US04093739
To a warm (55°-60° C.) solution of 250 ml. of thionyl chloride and 50 ml. of chloroform and 6 drops of pyridine is added 3-(chloroacetylamino)benzoic acid (150 g., 0.702 mole) in 3 equal portions at 0.5 hr. intervals. After the addition is complete, the reaction mixture is warmed to a temperature of 55°-65° C. for 2 hrs., cooled and diluted with 500 ml. of petroleum ether (b.p. 30°-60° C.). The precipitate which forms is collected, washed with petroleum ether (b.p. 30°-60° C.) and dried under vacuum over potassium hydroxide at room temperature to afford 143 g. (80% yield) of 3-(chloroacetylamino)benzoyl chloride, m.p. 106°-108° C.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(chloroacetylamino)benzoic acid | 0.702 mole, 150 g | ClCC(=O)NC=1C=C(C(=O)O)C=CC1 | C9H8ClNO3
catalyst | pyridine | 6 drops | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(chloroacetylamino)benzoyl chloride | 80% yield | ClCC(=O)NC=1C=C(C(=O)Cl)C=CC1 | C9H7Cl2NO2
